* SPICE Netlist
M1 22 4 7 7 PMOS
M2 7 4 8 8 NMOS
M3 5 10 7 7 PMOS
M4 7 10 12 12 NMOS
M5 9 9 6 6 NMOS

IBIAS1 22 7 DC 1m
IBIAS2 4 7 DC 1m
I0 5 55 DC 1m
In 9 99 DC 1m

*.model definitions if necessary
*.options and .end statements